US04453009
To a mixture of 12.2 g (0.05 mols) of 4-chloro-2',4'-dimethylbenzophenone, 12.1 g (0.08 mols) of cesium fluoride and 20 g of N-methylpyrrolidone were 5 ml of benzene added and water in the reaction system was removed together with benzene by azeotropy. The reaction was carried out under nitrogen atmosphere under reflux by heating while stirring for 15 hours. After cooling, the reaction product obtained was poured into 100 ml of water and then, extracted with 50 ml of diethyl ether and further with 50 ml of ether. The extracts together were dried and distilled and thus, 8.9 g of 4-fluoro-2',4'-dimethylbenzophenone were obtained.

reactant | 4-chloro-2',4'-dimethylbenzophenone | 0.05 mols, 12.2 g | ClC1=CC=C(C(=O)C2=C(C=C(C=C2)C)C)C=C1 | C15H13ClO
reactant | cesium fluoride | 0.08 mols, 12.1 g | [F-].[Cs+]
reactant | N-methylpyrrolidone | 20 g | CN1C(CCC1)=O | C5H9NO
reactant | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | 4-fluoro-2',4'-dimethylbenzophenone | 8.9 g, Yield 78% | FC1=CC=C(C(=O)C2=C(C=C(C=C2)C)C)C=C1 | C15H13FO
